US06191166B1
Synthesis of 4(Cyclohexyl)benzyl Alcohol
To a solution of 4-cyclohexylbenzoic acid (Aldrich; 1 molar eq.) in toluene was added diiso-butylaluminum hydride (Aldrich; 1 M in toluene; 4 molar eq.) over a 2 hour period. After addition was complete, the reaction was heated to 60° C. for 1 hour. The reaction was cooled to 5° C. and quenched with saturated aqueous ammonium chloride. The layers were separated and the aqueous layer extracted with ethyl acetate. The combined organics were filtered to remove salts and concentrated.

reactant | 4-cyclohexylbenzoic acid | C1(CCCCC1)C1=CC=C(C(=O)O)C=C1 | C13H16O2
reactant | diiso-butylaluminum hydride | 1 M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4(Cyclohexyl)benzyl Alcohol | C1(CCCCC1)C1=CC=C(CO)C=C1 | C13H18O
